US07910087B2
2-cyano-6-isopropylaminobenzothiazole
Potassium cyanide (18 mg) and 2-chloro-6-isopropylaminobenzothiazole (18 mg) were dissolved in 1 ml DMSO and heated to 120° C. for 4 h. After cooling to room temperature, the reaction was poured into 0.2M potassium phosphate, pH 4.5. The aqueous layer was extracted with ethyl acetate three times, washed with water, and dried over sodium sulfate. The solvent was removed by rotary evaporation and the residue purified by silica gel chromatography (20% ethyl acetate in hexanes). 1H-NMR (d6-DMSO): δ 7.83 (d, 1H, J=9.2 Hz), 7.15 (d, 1H, J=2.4 Hz), 6.97 (dd, 1H, J=2.4, 8.8 Hz), 6.52 (bd, 1H, J=7.2 Hz), 3.61 (m, 1H), 1.15 (d, 6H, J=6 Hz).

reactant | Potassium cyanide | 18 mg | [C-]#N.[K+]
reactant | 2-chloro-6-isopropylaminobenzothiazole | 18 mg | ClC=1SC2=C(N1)C=CC(=C2)NC(C)C | C10H11ClN2S
reactant | potassium phosphate | 0.2M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 2-cyano-6-isopropylaminobenzothiazole | C(#N)C=1SC2=C(N1)C=CC(=C2)NC(C)C | C11H11N3S
